US05616599
2-Ethylimidazole-4,5-dicarbonitrile
Following a procedure similar to that described in Preparation 1, but using 53.3 g of diaminomaleonitrile and 91.3 g of triethyl orthopropionate, 59.5 g of the title compound were obtained as crystals, melting at 179°-181° C.

reactant | diaminomaleonitrile | 53.3 g | N/C(=C(/C#N)\N)/C#N | C4H4N4
reactant | triethyl orthopropionate | 91.3 g | C(CC)(OCC)(OCC)OCC | C9H20O3
product | 2-Ethylimidazole-4,5-dicarbonitrile | 59.5 g | C(C)C=1NC(=C(N1)C#N)C#N | C7H6N4
